US07368578B2
To a mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-N-methoxy-N-methyl-2-propenamide (0.80 g) and tetrahydrofuran (30 mL) was added dropwise propylmagnesium bromide (2M tetrahydrofuran solution, 4.2 mL) at 0° C. and the mixture was stirred at room temperature for 2 hrs. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give (1E)-1-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-1-hexen-3-one as colorless crystals (0.32 g, yield 41%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 167-168° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-N-methoxy-N-methyl-2-propenamide | 0.80 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)N(C)OC)C2=CC=CC=C2)C=C1)OC)C | C31H30N4O7
reactant | propylmagnesium bromide | 2M, 4.2 mL | C(CC)[Mg]Br
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (1E)-1-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-1-hexen-3-one | 0.32 g, yield 41% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2\C=C\C(CCC)=O)C2=CC=CC=C2)C=C1)OC)C | C32H31N3O6
